US05112998
In 5 ml of ethanol was dissolved 105 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(N-phenylcarbamoyl)oxy-3β-(N-methylcarbamoyl)oxypregna-5,7-diene, followed by addition of 1 ml of 3N-hydrochloric acid, and the mixture was stirred in an atmosphere of argon gas at 40° C. for 3 hours. The reaction mixture was then worked up in the same manner as Example 156 to give 52 mg of 3β-(N-methylcarbamoyl)oxy-1α-(N-phenylcarbamoyl)oxypregna-5,7-diene-20-carbaldehyde showing the following physical properties.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(N-phenylcarbamoyl)oxy-3β-(N-methylcarbamoyl)oxypregna-5,7-diene | 105 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(NC1=CC=CC=C1)=O)OC(NC)=O)C | C36H50N2O6
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3β-(N-methylcarbamoyl)oxy-1α-(N-phenylcarbamoyl)oxypregna-5,7-diene-20-carbaldehyde | 52 mg | CNC(=O)O[C@@H]1CC2=CC=C3[C@@H]4CC[C@H](C(C)C=O)[C@]4(CC[C@@H]3[C@]2([C@H](C1)OC(NC1=CC=CC=C1)=O)C)C | C31H40N2O5
